US07989457B2
To a solution of 4-[1-(3-bromo-4-methoxy-phenyl)-1-hydroxy-heptyl]-benzoic acid methyl ester (572 mg, 1.31 mmol) in dichloromethane (10 mL) is added TFA (749 mg, 6.57 mmol). 5 min later, triethylsilane (763 mg, 6.57 mmol) is added dropwise. 5 h later, the reaction mixture is diluted with ethyl acetate, washed with 1N NaOH, water, brine, dried over sodium sulfate, concentrated and purified by column chromatography to give 4-[1-(3-bromo-4-methoxy-phenyl)-hept-1-enyl]-benzoic acid methyl ester (380 mg), which is hydrolyzed by 5N NaOH (1 mL) to afford the titled compound (380 mg).

reactant | 4-[1-(3-bromo-4-methoxy-phenyl)-1-hydroxy-heptyl]-benzoic acid methyl ester | 1.31 mmol, 572 mg | COC(C1=CC=C(C=C1)C(CCCCCC)(O)C1=CC(=C(C=C1)OC)Br)=O | C22H27BrO4
reactant | TFA | 6.57 mmol, 749 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 6.57 mmol, 763 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-(3-bromo-4-methoxy-phenyl)-hept-1-enyl]-benzoic acid methyl ester | 380 mg | COC(C1=CC=C(C=C1)C(=CCCCCC)C1=CC(=C(C=C1)OC)Br)=O | C22H25BrO3
